US04719200
N-(benzylthio)thiocarbonyl-L-alanyl-L-prolyl-L-proline (0.90 g, 2 m mole) was dissolved in L-arginine (0.35 g, 2 m mole) water (30 ml) solution, and the thus obtained solution was freeze-dried to give N-(benzylthio)thiocarbonyl-L-alanyl-L-prolyl-L-proline L-arginine salt (1.22 g).

reactant | N-(benzylthio)thiocarbonyl-L-alanyl-L-prolyl-L-proline | 0.90 g | C(C1=CC=CC=C1)SC(=S)N[C@@H](C)C(=O)N1[C@H](C(=O)N2[C@H](C(=O)O)CCC2)CCC1 | C21H27N3O4S2
reactant | L-arginine | 0.35 g | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
solvent | water | 30 ml | O | H2O
product | N-(benzylthio)thiocarbonyl-L-alanyl-L-prolyl-L-proline L-arginine salt | 1.22 g | N[C@@H](CCCNC(N)=N)C(=O)O.C(C1=CC=CC=C1)SC(=S)N[C@@H](C)C(=O)N1[C@H](C(=O)N2[C@H](C(=O)O)CCC2)CCC1 | InChI=1S/C21H27N3O4S2.C6H14N4O2/c1-14(22-21(29)30-13-15-7-3-2-4-8-15)18(25)23-11-5-9-16(23)19(26)24-12-6-10-17(24)20(27)28;7-4(5(11)12)2-1-3-10-6(8)9/h2-4,7-8,14,16-17H,5-6,9-13H2,1H3,(H,22,29)(H,27,28);4H,1-3,7H2,(H,11,12)(H4,8,9,10)/t14-,16-,17-;4-/m00/s1
